US06114532
d. 4-[(5-phenylaminosulphonyl-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile
Prepared analogously to Example 1a from 4-phenylaminosulphonyl-2-amino-N-methyl-aniline-hydrochloride and 4-cyano-phenylacetic acid in phosphorus oxychloride.

reactant | 4-phenylaminosulphonyl-2-amino-N-methyl-aniline-hydrochloride | Cl.C1(=CC=CC=C1)NS(=O)(=O)C1=CC(=C(NC)C=C1)N
reactant | 4-cyano-phenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
solvent | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-[(5-phenylaminosulphonyl-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile | C1(=CC=CC=C1)NS(=O)(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C#N)C=C2)C)C=C1 | C22H18N4O2S
